US06509360B1
[2,6-Dibromo-4-(2-butyl-benzofuran-3-carbonyl)-phenoxy]-acetic Acid
This compound was prepared from (2-butyl-benzofuran-3-yl)-(3,5-dibromo-4-hydroxy-phenyl)-methanone and tert-butyl bromoacetate in substantially the same manner, as described in Example 2, and was obtained as an off-white solid, mp 92-94° C.; MS m/e 508 (M+); Analysis for: C21H18Br2O5 Calc'd: C, 49.44; H, 3.56 Found: C, 47.24; H, 3.59

reactant | (2-butyl-benzofuran-3-yl)-(3,5-dibromo-4-hydroxy-phenyl)-methanone | C(CCC)C=1OC2=C(C1C(=O)C1=CC(=C(C(=C1)Br)O)Br)C=CC=C2 | C19H16Br2O3
reactant | tert-butyl bromoacetate | BrCC(=O)OC(C)(C)C | C6H11BrO2
product | [2,6-Dibromo-4-(2-butyl-benzofuran-3-carbonyl)-phenoxy]-acetic Acid | BrC1=C(OCC(=O)O)C(=CC(=C1)C(=O)C1=C(OC2=C1C=CC=C2)CCCC)Br | C21H18Br2O5
